US06162824
(qq) 8-Phenyl-8H-indeno[2,1-b]thiophen-8-ol:
from phenylmagnesium chloride and indeno[2,1-b]thiophen-8-one (prepared as described in Rawson and Wyberg, Rec. Trav. Chim. 90, 1971:46-55)

reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | indeno[2,1-b]thiophen-8-one | S1C2=C(C=C1)C=1C=CC=CC1C2=O | C11H6OS
product | 8-Phenyl-8H-indeno[2,1-b]thiophen-8-ol | C1(=CC=CC=C1)C1(C=2C=CC=CC2C2=C1SC=C2)O | C17H12OS
